US06664256B1
Preparation of 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine 1-oxide
Hydrogen peroxide solution (31%, 5.2 ml) was added to a solution of 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine (2.6 g, 7.55 mmol) in acetic acid (30 ml), followed by stirring at 50° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, and to the residue, an aqueous solution of potassium carbonate was added. The thus-obtained mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was separated and purified by chromatography on a silica gel column [silica gel 100 g, benzene/ethyl acetate (1/1)], whereby the title compound was obtained as a pale yellow amorphous solid (1.2 g, 44.1%).

reactant | Hydrogen peroxide | 5.2 ml | OO | H2O2
reactant | 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine | 7.55 mmol, 2.6 g | ClC1=CC=C(C=C1)C1=C(N=NC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C17H13ClN2O2S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chlorophenyl)-3-[4-(methylsulfonyl)phenyl]pyridazine 1-oxide | 1.2 g, 44.1% | ClC1=CC=C(C=C1)C1=C(N=[N+](C=C1)[O-])C1=CC=C(C=C1)S(=O)(=O)C | C17H13ClN2O3S
